US04224326
PREPARATION OF 2-(p-TRIFLUOROMETHOXYPHENYL)-1H-PERIMIDINE HYDROFLUORIDE
1,8-Diaminonaphthalene (1.52 grams; 0.0096 mole) was dissolved in 25 ml. of toluene, then decanted. p-Trifluoromethoxybenzoyl fluoride (2.0 grams; 0.0096 mole) was dissolved in 25 ml. of toluene. Both solutions were added simultaneously to 25 ml. of toluene. After the reaction mixture had been stirred for approximately 4 hours, TLC indicated that the reaction was complete.

reactant | 1,8-Diaminonaphthalene | 0.0096 mole, 1.52 grams | NC1=CC=CC2=CC=CC(=C12)N | C10H10N2
reactant | p-Trifluoromethoxybenzoyl fluoride | 0.0096 mole, 2.0 grams | FC(OC1=CC=C(C(=O)F)C=C1)(F)F | C8H4F4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(p-TRIFLUOROMETHOXYPHENYL)-1H-PERIMIDINE HYDROFLUORIDE | F.FC(OC1=CC=C(C=C1)C=1NC=2C=CC=C3C=CC=C(N1)C23)(F)F | InChI=1S/C18H11F3N2O.FH/c19-18(20,21)24-13-9-7-12(8-10-13)17-22-14-5-1-3-11-4-2-6-15(23-17)16(11)14;/h1-10H,(H,22,23);1H
